US05238962
In a manner analogous to that described in Example 7, 11.8 g (0.08 mol) of 4-cyanobenzoic acid are reacted with triethylamine and ethyl chloroformate and worked-up and then added dropwise to a solution of 21.4 ml of ethylenediamine in 350 ml of chloroform. After adding 45 ml of dimethylformamide, the mixture is heated to 60° for a further 1 hour. After filtration, the filtrate is concentrated, and the residue is treated in the same manner as described in Example 7. There are obtained 3.5 g of N-(2-aminoethyl)-4-cyanobenzamide hydrochloride, m.p. 212°-215° (decomposition). The free base melts at 124°-126°.

reactant | 4-cyanobenzoic acid | 0.08 mol, 11.8 g | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | ethylenediamine | 21.4 ml | C(CN)N | C2H8N2
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | N-(2-aminoethyl)-4-cyanobenzamide hydrochloride | 3.5 g | Cl.NCCNC(C1=CC=C(C=C1)C#N)=O | InChI=1S/C10H11N3O.ClH/c11-5-6-13-10(14)9-3-1-8(7-12)2-4-9;/h1-4H,5-6,11H2,(H,13,14);1H
